US08378095B2
To a suspension of 2-(2,6-difluorophenyl)-5-(2-methoxyphenylamino)oxazole-4-carbonitrile (0.018 g, 0.055 mmol, prepared according to the procedure described for Q-1 step a) in water (4.5 mL) was added 1M aqueous potassium hydroxide (0.27 mL, 0.27 mmol) and the resulting mixture stirred at 140° C. in the microwave for 15 minutes. The solvent was removed in vacuo and the residue purified by preparative HPLC to afford 2-(2,6-difluorophenyl)-5-(2-methoxyphenylamino)oxazole-4-carboxamide (0.0104 g, 0.030 mmol, 55%). 1H NMR (DMSO) δ 3.92 (3H, s), 6.99 (1H, ddd), 7.04 (1H, ddd), 7.12 (1H, dd), 7.35 (2H, t), 7.42 (2H, br. s), 7.64 (1H, m), 7.68 (1H, dd), 9.48 (1H, s). LCMS (2) Rt: 2.86 min; m/z (ES+) 346.

reactant | 2-(2,6-difluorophenyl)-5-(2-methoxyphenylamino)oxazole-4-carbonitrile | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C#N)NC1=C(C=CC=C1)OC | C17H11F2N3O2
reactant | potassium hydroxide | 0.27 mmol, 1M, 0.27 mL | [OH-].[K+]
solvent | water | 4.5 mL | O | H2O
product | 2-(2,6-difluorophenyl)-5-(2-methoxyphenylamino)oxazole-4-carboxamide | 0.030 mmol, 0.0104 g, 55% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)NC1=C(C=CC=C1)OC | C17H13F2N3O3
